US06225311B1
To a solution of methyl [(tert-butoxycarbonyl)amino]{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}acetate was dissolved in dichloromethane, hydrogen chloride gas was bubbled in for 5 minutes. The reaction was then stirred at room temperature for 0.5 h. The solvent was removed to provide 1.80 g of methyl amino{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}acetate dihydrochloride as a light pink solid Yield ˜100%. mp 80° C. (d). Electrospray Mass Spec 279.2 (M+H)+.

reactant | methyl [(tert-butoxycarbonyl)amino]{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}acetate | C(C)(C)(C)OC(=O)NC(C(=O)OC)C1=CC=C(C=C1)OCCN1CCCC1 | C20H30N2O5
reactant | dichloromethane | ClCCl | CH2Cl2
product | methyl amino{4-[2-(1-pyrrolidinyl)ethoxy]phenyl}acetate dihydrochloride | 1.80 g, Yield ˜100% | Cl.Cl.NC(C(=O)OC)C1=CC=C(C=C1)OCCN1CCCC1 | InChI=1S/C15H22N2O3.2ClH/c1-19-15(18)14(16)12-4-6-13(7-5-12)20-11-10-17-8-2-3-9-17;;/h4-7,14H,2-3,8-11,16H2,1H3;2*1H
